US06867299B2
A mixture of 44 mg (0.1 mmol) of N-[3-methoxy-4-(5-oxazolyl)phenyl]-N′-[1,1-dimethyl-2-(4-nitrophenyl)ethyl]oxalamide and 90 mg (0.5 mmol) of tin(II) chloride were stirred and heated at 85° C. in 2 ml of ethanol and 1 ml of 1,4-dioxane for 5 hours. The resulting solution was cooled, diluted with ethyl acetate and washed with 2M sodium hydroxide. The organic phase was dried over magnesium sulphate, evaporated to dryness and the residue chromatographed on silica gel using ethyl acetate/petrol (2:1) for the elution. After trituration with petrol there was obtained 31 mg of N-[2-(4-aminophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide as a white solid. MS: m/e 409 M+H]+.

reactant | N-[3-methoxy-4-(5-oxazolyl)phenyl]-N′-[1,1-dimethyl-2-(4-nitrophenyl)ethyl]oxalamide | 0.1 mmol, 44 mg | COC=1C=C(C=CC1C1=CN=CO1)NC(C(=O)NC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C)=O | C22H22N4O6
reactant | tin(II) chloride | 0.5 mmol, 90 mg | [Sn](Cl)Cl
reactant | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(4-aminophenyl)-1,1-dimethylethyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 31 mg | NC1=CC=C(C=C1)CC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C22H24N4O4
